US06727264B1
3-(2-CHLORO-6-FLUOROPHENYL)-N-((1S)-3-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}-1-PHENYLPROPYL)-5-METHYL-4-ISOXAZOLECARBOXAMIDE:
Prepared by Procedure Q1 and Scheme AC using N-(3-{1-[(3S)-3-amino-3-phenylpropyl]-4-piperidinyl}phenyl)-2-methylpropanamide and 3-(2-chloro-6-fluorophenyl)-5-methyl-4-isoxazolecarbonyl chloride: ESMS m/e: 617.2 (M+H)+.

reactant | N-(3-{1-[(3S)-3-amino-3-phenylpropyl]-4-piperidinyl}phenyl)-2-methylpropanamide | N[C@@H](CCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)C1=CC=CC=C1 | C24H33N3O
reactant | 3-(2-chloro-6-fluorophenyl)-5-methyl-4-isoxazolecarbonyl chloride | ClC1=C(C(=CC=C1)F)C1=NOC(=C1C(=O)Cl)C | C11H6Cl2FNO2
product | 3-(2-CHLORO-6-FLUOROPHENYL)-N-((1S)-3-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}-1-PHENYLPROPYL)-5-METHYL-4-ISOXAZOLECARBOXAMIDE | ClC1=C(C(=CC=C1)F)C1=NOC(=C1C(=O)N[C@@H](CCN1CCC(CC1)C1=CC(=CC=C1)NC(C(C)C)=O)C1=CC=CC=C1)C | C35H38ClFN4O3
